US03935253
2.67 g of 6-hydroxy-1-methyl-4-methylen-2,3,3a,4,5,6,7,8-octahydroazulene were treated at 0° firstly with half of a mixture of 4.08 g of acetic anhydride, 1.84 g of formic acid and 37 mg of pyridine. The mixture was stirred for 24 hours at room temperature and with exclusion of light. Then the other half of the reagent was added and the mixture stirred for further 24 hours. The solution was poured on to a mixture of ice and sodium carbonate and worked up in a conventional manner. The crude product so obtained (3.18 g) was distilled under high vacuum and yielded 2.70 g (87%) of pure 6-formyloxy-1-methyl-4-methylen-2,3,3a,4,5,6,7,8-octahydroazulene; b.p.0.005 50°; IR(film):νmax = 3120, 1728, 1645, 1460/45, 1190/82, 1015/1000, 905/900 cm-1. The compound smells woody, cedar-like, slightly ionone-like.

reactant | 6-hydroxy-1-methyl-4-methylen-2,3,3a,4,5,6,7,8-octahydroazulene | 2.67 g | OC1CC(C2CCC(=C2CC1)C)=C | C12H18O
reactant | acetic anhydride | 4.08 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | pyridine | 37 mg | N1=CC=CC=C1 | C5H5N
solvent | formic acid | 1.84 g | C(=O)O | CH2O2
product | 6-formyloxy-1-methyl-4-methylen-2,3,3a,4,5,6,7,8-octahydroazulene | 2.70 g, 87% | C(=O)OC1CC(C2CCC(=C2CC1)C)=C | C13H18O2
